US07396844B1
Synthesis of ethyl 4-[(pyridine-4-yl)amino]benzoate
4.57 g (31 mmol) of 4-chloropyridine and 5.03 g (31 mmol) of ethyl 4-aminobenzoate were dissolved in 100 ml of xylene. 12.7 ml (92 mmol) of triethylamine was added to the obtained solution and the resultant mixture was heated under reflux for 50 hours. The solvent was evaporated, and the residue was diluted with water. After the extraction with dichloromethane followed by washing with saturated Aqueous NaCl solution and drying over anhydrous magnesium sulfate, the solvent was evaporated and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-chloropyridine | 31 mmol, 4.57 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | ethyl 4-aminobenzoate | 31 mmol, 5.03 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | triethylamine | 92 mmol, 12.7 ml | C(C)N(CC)CC | C6H15N
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 4-[(pyridine-4-yl)amino]benzoate | N1=CC=C(C=C1)NC1=CC=C(C(=O)OCC)C=C1 | C14H14N2O2
